US04990671
Preparation of N(4-hydroxy-3,5-di-tert-butylphenyl) stearamide
A 2 liter Parr bomb was charged with 210.5 g of 44.6% water wet (0.5 mole, pure, dry) 2,6-di-tert-butyl-4-nitrosophenol, 2.0 g of 5% Pd/C catalyst, 300 ml dichloromethane and 400 ml hexane. The nitrogen purged system was pressurized to 50 psi with hydrogen and the rate of hydrogen uptake noted. Hydrogenation was completed within one hour.

reactant | water | 0.5 mole, 210.5 g | O | H2O
reactant | 2,6-di-tert-butyl-4-nitrosophenol | C(C)(C)(C)C1=C(C(=CC(=C1)N=O)C(C)(C)C)O | C14H21NO2
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
reactant | hydrogen | [H][H] | H2
reactant | hexane | 400 ml | CCCCCC | C6H14
catalyst | Pd/C | 2.0 g | [Pd] | Pd
product | N(4-hydroxy-3,5-di-tert-butylphenyl) stearamide | OC1=C(C=C(C=C1C(C)(C)C)NC(CCCCCCCCCCCCCCCCC)=O)C(C)(C)C | C32H57NO2
